US07514583B2
Bis(3,4-dihydroxybenzyl)amine (Compound 73; DC-0073)
The crude bis(3,4-dimethoxybenzyl)amine (0.6 g) was combined with hydrobromic acid (6 ml of 48% w/w solution in water) and slowly heated with stirring, to 145° C. over 1 h. The reaction was maintained at 145° C. for 12 h, allowed to cool to room temperature, and poured into water (25 ml). The reaction mixture was neutralized with saturated aqueous sodium hydrogen carbonate, and extracted with ethyl acetate (25 ml). The organic layer was washed into water (2×25 ml), dried (Na2SO4) and the solvent removed under reduced pressure to afford DC-0073 as a solid, 160 mg.

reactant | bis(3,4-dimethoxybenzyl)amine | 0.6 g | COC=1C=C(CNCC2=CC(=C(C=C2)OC)OC)C=CC1OC | C18H23NO4
reactant | hydrobromic acid | 6 ml | Br | BrH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 25 ml | O | H2O
product | Bis(3,4-dihydroxybenzyl)amine | OC=1C=C(CNCC2=CC(=C(C=C2)O)O)C=CC1O | C14H15NO4
